US08227468B2
4-Fluoro-N-[(3R,4S)-3-hydroxy-6-piperazin-1-yl-chroman-4-yl]benzamide hydrochloride
Degas (bubble nitrogen through the mixture) a suspension of tri-t-butylphosphonium tetrafluoroborate (16.0 g, 54.6 mmol) and allylpalladium(II) chloride dimer (5.07 g, 27.3 mmol) in DMSO (1.40 L) with stirring at room temperature. Add N-tert-butoxycarbonylpiperazine (315 g, 1.64 mol, 97% pure) and N-[(3R,4S)-6-bromo-3-hydroxy-chroman-4-yl]-4-fluoro-benzamide (200.0 g, 546 mmol). Stir the mixture for 15 min under nitrogen and then heat at 80° C. Add sodium tert-butoxide (179 g, 1.80 mol) and heat at 93-98° C. for 45 min. Pour the mixture over a solution of 1 M phosphoric acid (2.73 L, 2.73 mol, adjusted to pH=2.3 with 50% sodium hydroxide) and ethyl acetate (800 mL) and stir for 10 min. Separate the layers and extract the aqueous layer with ethyl acetate (3×300 mL). Wash the combined organic layer with semi-saturated brine (2×500 mL). Treat the organic layer with activated carbon (20 g) and silica gel (200 g) and stir for 30 min. Filter through a pad of diatomaceous earth and concentrate under reduced pressure to obtain a dark oil. Dissolve the oil in methanol (800 mL), add 4 M hydrogen chloride in dioxane (410 mL), and stir the solution at 40° C. for 1 hr. Evaporate the solvent in vacuo, suspend the residue in acetonitrile (1.6 L) and stir at room temperature for 1 hr. Collect the solid by filtration under nitrogen to avoid hydration of the salt. Wash the filtrate with acetonitrile (500 mL) and methyl tert-butyl ether (1 L), and dry under vacuum to obtain the title compound (262 g, 73%). LC-ES/MS m/z 372 [M+H]+.

reactant | N-tert-butoxycarbonylpiperazine | 1.64 mol, 315 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | N-[(3R,4S)-6-bromo-3-hydroxy-chroman-4-yl]-4-fluoro-benzamide | 546 mmol, 200.0 g | BrC=1C=C2[C@@H]([C@H](COC2=CC1)O)NC(C1=CC=C(C=C1)F)=O | C16H13BrFNO3
reactant | sodium tert-butoxide | 1.80 mol, 179 g | CC(C)([O-])C.[Na+]
reactant | phosphoric acid | 2.73 mol, 1 M, 2.73 L, pH=2.3 | P(O)(O)(O)=O | H3O4P
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | DMSO | 1.40 L | CS(=O)C | C2H6OS
solvent | methanol | 800 mL | CO | CH4O
solvent | dioxane | 410 mL | O1CCOCC1 | C4H8O2
catalyst | allylpalladium(II) chloride dimer | 27.3 mmol, 5.07 g | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
catalyst | tri-t-butylphosphonium tetrafluoroborate | 54.6 mmol, 16.0 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
product | 4-Fluoro-N-[(3R,4S)-3-hydroxy-6-piperazin-1-yl-chroman-4-yl]benzamide hydrochloride | 262 g, 73% | Cl.FC1=CC=C(C(=O)N[C@@H]2[C@H](COC3=CC=C(C=C23)N2CCNCC2)O)C=C1 | InChI=1S/C20H22FN3O3.ClH/c21-14-3-1-13(2-4-14)20(26)23-19-16-11-15(24-9-7-22-8-10-24)5-6-18(16)27-12-17(19)25;/h1-6,11,17,19,22,25H,7-10,12H2,(H,23,26);1H/t17-,19-;/m0./s1
